US04632931
(1) Methyl tetrahydrofuroate
Methyl furoate (75 g, 0.595 mole) was dissolved in MeOH (150 ml), and poured into a Parr bottle. Air was replaced with argon, and then 10% Pd/C (2.5 g) was added. The atmosphere was replaced with H2 and methyl furoate was hydrogenated at 40 psi for 48 hours. The reaction was filtered through celite pad, and the pad was washed with ether. The filtrate and the wash were combined and distilled to give the title compound (71 g, 0.546 mole, 59° C./5.1 mmHg, 92%) as a colorless liquid.

reactant | Methyl furoate | 0.595 mole, 75 g | O1C(=CC=C1)C(=O)OC | C6H6O3
solvent | MeOH | 150 ml | CO | CH4O
catalyst | Pd/C | 2.5 g | [Pd] | Pd
product | Methyl tetrahydrofuroate | 0.546 mole, 71 g, 92% | O1C(CCC1)C(=O)OC | C6H10O3
